US09328112B2
tert-butyl 5-(((trifluoromethyl)sulfonyl)oxy)-3,3a,6,6a-tetrahydrocyclopenta[c]pyrrole-2(1H)-carboxylate
To a solution of sodium bis(trimethylsilyl)amide (1M in tetrahydrofuran, 14.65 mL, 14.65 mmol) in tetrahydrofuran (12 mL) at −78° C. was slowly added tert-butyl 5-oxohexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate (3.00 g, 13.32 mmol) in tetrahydrofuran (7.5 mL). The mixture was stirred for 30 minutes and treated over 15 minutes with a solution of 1,1,1-trifluoro-N-phenyl-N-((trifluoromethyl)sulfonyl)methanesulfonamide (5.23 g, 14.65 mmol) in tetrahydrofuran (12 mL). The mixture was stirred at −78° C. for 90 minutes and allowed to warm to room temperature for 1 hour. The mixture was quenched with water and extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (Teledyne CombiFlash Rf, 10-80% ethyl acetate/hexanes) to afford the title compound (˜75% purity), which was used in the next step without further purification. MS (ESI+) m/z 380 (M+Na)+.

reactant | sodium bis(trimethylsilyl)amide | 14.65 mmol, 1M, 14.65 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tert-butyl 5-oxohexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | 13.32 mmol, 3.00 g | O=C1CC2C(CN(C2)C(=O)OC(C)(C)C)C1 | C12H19NO3
reactant | 1,1,1-trifluoro-N-phenyl-N-((trifluoromethyl)sulfonyl)methanesulfonamide | 14.65 mmol, 5.23 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | tert-butyl 5-(((trifluoromethyl)sulfonyl)oxy)-3,3a,6,6a-tetrahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | ~75% | FC(S(=O)(=O)OC1=CC2C(CN(C2)C(=O)OC(C)(C)C)C1)(F)F | C13H18F3NO5S
